US04937252
Preparation of 3-(4-methoxyphenylmethyl)-2-thiazolidinone
A solution containing 4.53 g (0.025 mol) of N-(4-methoxyphenylmethyl)-cysteamine and 5.35 g (0.025 mol) of diphenyl carbonate in 25 ml of ethanol is refluxed under nitrogen for 24 hours, then evaporated. The residue is taken up in ethyl acetate, washed with 2N sodium hydroxide solution until it becomes free from phenol, then washed with water, dried and evaporated. The residue becomes solid under ether. Thus, 1.82 g (32.6%) of the title compound are obtained, m.p.: 84°-86° C.

reactant | N-(4-methoxyphenylmethyl)-cysteamine | 0.025 mol, 4.53 g | COC1=CC=C(C=C1)CNCCS | C10H15NOS
reactant | diphenyl carbonate | 0.025 mol, 5.35 g | C(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C13H10O3
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 3-(4-methoxyphenylmethyl)-2-thiazolidinone | 1.82 g, 32.6% | COC1=CC=C(C=C1)CN1C(SCC1)=O | C11H13NO2S
